US04079146
Trimethylammonium Manganese Ethylene-bis-dithiocarbamic acid-Dimethyldithiocarbamic acid
A 100 ml. aqueous solution of 8.44g. (0.05 mole) of manganese sulfate monohydrate is added dropwise to a 3-necked flask. After 5-10 ml. of the solution has been added, a combined 100 ml. aqueous solution of 6.6g. of sodium ethylene-bis-dithiocarbamate (0.025 mole), 8.95g. of sodium dimethyldithiocarbamate (0.05 mole) and 9.5g. (0.1 mole) of trimethylamine hydrochloride is added simultaneously to the flask at the same rate as that of the metal salt solution. After the addition (ca 15 min.) the suspension is stirred for 0.5 hour then vacuum filtered, reslurried with water, and filtered again. The collected precipate is air-dried overnight then vacuum dried until it reaches a constant weight. A total of 13.7g. of product, mp>250° C. (dec) is obtained.

reactant | manganese sulfate monohydrate | 0.05 mole | O.S(=O)(=O)([O-])[O-].[Mn+2]
reactant | sodium ethylene-bis-dithiocarbamate | 0.025 mole | C(CNC([S-])=S)NC([S-])=S.[Na+].[Na+]
reactant | sodium dimethyldithiocarbamate | 0.05 mole | CN(C([S-])=S)C.[Na+]
reactant | trimethylamine hydrochloride | 0.1 mole | Cl.CN(C)C
product | Trimethylammonium Manganese Ethylene-bis-dithiocarbamic acid Dimethyldithiocarbamic acid | C(CNC(S)=S)NC(S)=S.[Mn+2].C[NH+](C)C.CN(C(S)=S)C | InChI=1S/C4H8N2S4.C3H7NS2.C3H9N.Mn/c7-3(8)5-1-2-6-4(9)10;1-4(2)3(5)6;1-4(2)3;/h1-2H2,(H2,5,7,8)(H2,6,9,10);1-2H3,(H,5,6);1-3H3;/q;;;+2/p+1
